*$
* CSD16413Q5A
***********************************************************************
*  (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD16413Q5A
* Date: 05/15/2016
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS199A –AUGUST 2009–REVISED APRIL 2010
* Model Version: Final 1.00
*
.SUBCKT CSD16413Q5A  1 2 3
**********************************************************************
* PARAMETER (local) DEFINITIONS SECTION
****** Device Geometry       *****************************************
 .PARAM  pWidth  1.99634      ; m, scale width 
 .PARAM  perim  {2*pWidth}
 .PARAM  ptrc1  5e-3		 ; temp coef of extr Rd / Rs
 .PARAM  ptrc2  7.2e-6
**********************************************************************
M1   10 11 12 12  NMOS	W={pWidth} L=0.5u  PS={perim} PD={perim}
DBD   8  7	 DBD
CGD0  5  7	 1e-12
CGS0  5  8	 6e-12
M2   12 11 12 10  PMOSd W={pWidth} L=0.105u PS={perim} PD={perim}
DDG  14  5	 DD
DGD  14 10	 DD
* Note:  gate oxide capacitance included in NMOS below
CGS   5 13	 53e-12
RGS  13  8	 1450
LGG   2  5	 1.45e-9
RGG   5 11	 1.02
RSB  12  9	 RTEMP 0.15e-3
RSS   9  8 	 0.18e-3
RSP   8  6 	 0.65e-3
LSS   6  3	 0.38e-9
RDP   4  7	 0.55e-3
RDD   7 10 	 RTEMP 1.10e-3
LDD   1  4	 0.05E-9
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.070e-6      CAPMOD = 2
+ TOX    = 3.0E-8        NCH    = 1.345e17      NSUB   = 5e15
+ AGS    = 0.0           PVAG   = 1.1
+ A0     = 1.00          A1     = 0.0           A2     = 0.90
+ UA     = 1.50e-9       UB     = 1.0e-18       VBM    = -5
+ UA1    = 2.4e-9        UB1    = -5.5e-18      UTE    = -1.50
+ KT1    = -0.675        KT2    =-0.022         KT1L   = 1.0e-12
+ DVT0   = 2.3           DVT1   = 0.55	      DVT2   = -0.033
+ ETA0   = 0.045         ETAB   = -0.07         XJ     = 3e-7
+ PDIBLC1= 0.08          PDIBLC2= 0.006         NLX    = 1.7e-7
+ PSCBE1 = 0.3e8         PSCBE2 = 2.5e-8        PCLM   = 2.5
+ VOFF   = -0.20         NFACTOR= 2.3           JS     = 0
+ DROUT  = 0.8           DSUB   = 1.6           DELTA  = 0.01
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 275.0e-12     CGDO   = 7.0e-12       CGBO   = 0  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -1.0          IS     = 6.0e-14
+ TOX    = 3.00e-8       NSUB   = 2.0e17        GAMMA  = 2.0
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
*******************************************************************
.MODEL DBD D (		 CJO	  = 3.62e-9       VJ     = 0.92
+ M	   = 0.49		 TNOM	  = 27		FC	 = 0.5
+ TT	   = 1.5e-09 	 XTI	  = 3.0 		BV	 = 27
+ IS	   = 2.0e-12 	 N	  = 1.01		RS	 = 0.50e-3
+ TRS1   = 3.83e-3)
.MODEL DD  D (		CJO	  = 1.85e-10	VJ	 = 0.35
+ M	   = 0.90		IS	  = 1e-16 		RS	 = 0.1
+ TNOM   = 27)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD16413Q5A
*$